US04450155
By the method of part A of Example 1 N-(tert-butyloxycarbonyl)-L-proline (4.3 g.) was condensed with 3-phenylpropylamine (2.7 g.) and the product was purified by high pressure liquid chromatography on silica gel using hexaneethyl acetate (7:3) as the eluant, affording 1-(tert-butyloxycarbonyl)-N-(3-phenylpropyl)-L-prolinamide (3.48 g.).

reactant | N-(tert-butyloxycarbonyl)-L-proline | 4.3 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 3-phenylpropylamine | 2.7 g | C1(=CC=CC=C1)CCCN | C9H13N
product | 1-(tert-butyloxycarbonyl)-N-(3-phenylpropyl)-L-prolinamide | 3.48 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)NCCCC2=CC=CC=C2)CCC1 | C19H28N2O3
